US07728029B2
(Tetrahydro-pyran-4-yl)-hydrazine hydrochloride (1.975 g, 12.94 mmol), ethyl (ethoxymethylene)-cyanoacetate (1.958 g, 11.57 mmol) and sodium acetate (1.370 g; 16.70 mmol) were combined in ethanol (16 mL). The mixture was heated at 80-85° C. for 17 hours. After cooling to room temperature, the reaction was concentrated and the residue was partitioned between methylene chloride and water. The organic phase was separated and washed with water and then brine. Each aqueous phase was back extracted with methylene chloride. The two organic phases were combined, dried over sodium sulfate and concentrated in vacuo. The crude material was purified by flash chromatography eluting with 60-100% ethyl acetate/hexanes to give 5-amino-1-(tetrahydro-pyran-4-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (2.554 g, 92%).

reactant | (Tetrahydro-pyran-4-yl)-hydrazine hydrochloride | 12.94 mmol, 1.975 g | Cl.O1CCC(CC1)NN
reactant | ethyl (ethoxymethylene)-cyanoacetate | 11.57 mmol, 1.958 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | sodium acetate | 16.70 mmol, 1.370 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | 5-amino-1-(tetrahydro-pyran-4-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 2.554 g, 92% | C(C)OC(=O)C=1C=NN(C1N)C1CCOCC1 | C11H17N3O3
